US03971821
9.7 parts of 2-nitro-4-dimethylaminobenzaldehyde is dissolved in 50 parts of ethyl alcohol and a solution of 4.1 parts of hydroxylamine hydrochloride and 5 parts of sodium acetate in water is added. After the mixture has been boiled for one hour it is suction filtered. 7.5 parts (71% of theory) of 2-nitro-4-dimethylaminobenzaldoxime is obtained having a melting point of 140° to 143°C: ##SPC18##

reactant | 2-nitro-4-dimethylaminobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)N(C)C | C9H10N2O3
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-nitro-4-dimethylaminobenzaldoxime | 71% | [N+](=O)([O-])C1=C(C=NO)C=CC(=C1)N(C)C | C9H11N3O3
